US07157487B2
In xylene (10 mL), 2-chlorobenzoxazole (1.00 g, 6.51 mmol) and ethyl 4-aminophenylacetate (1.67 g, 6.51 mmol) were heated and refluxed for 10 hours. After cooling, water was added to the reaction mixture, followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from hexane-ethyl acetate (3:1, v/v) eluate fractions, ethyl 4-(2-benzoxazolylamino)phenylacetate (2.08 g, 99%) was obtained as a yellow solid.

reactant | 2-chlorobenzoxazole | 6.51 mmol, 1.00 g | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | ethyl 4-aminophenylacetate | 6.51 mmol, 1.67 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | water | O | H2O
solvent | xylene | 10 mL | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl 4-(2-benzoxazolylamino)phenylacetate | 2.08 g, 99% | O1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)CC(=O)OCC | C17H16N2O3
